US06225330B1
Benzyl-N-[4-({[(benzoylamino)carbothioyl]amino}methyl)-cyclohexyl]carbamate:
A solution of benzyl N-[4-(aminomethyl)cyclohexyl]carbamate HCl (3.46 g, 11.6 mmol) and diisopropylethylamine (6.0 ml) in anhydrous THF (90 ml) was stirred at room temperature for 20 minutes. To this solution was added benzoylisothiocyanate (2.00 g, 12.3 mmol) and the reaction mixture stirred at room temperature for 14 hours. The solution was poured into water (200 ml) and extracted with Et2O (2×150 ml). The organic layer was dried over MgSO4, filtered and evaporated to yield a solid. The solid was triturated with hexane and filtered to yield 99% (5.023 g) of the desired product.

reactant | benzyl N-[4-(aminomethyl)cyclohexyl]carbamate HCl | 11.6 mmol, 3.46 g | Cl.NCC1CCC(CC1)NC(OCC1=CC=CC=C1)=O
reactant | diisopropylethylamine | 6.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzoylisothiocyanate | 12.3 mmol, 2.00 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | water | 200 ml | O | H2O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | Benzyl-N-[4-({[(benzoylamino)carbothioyl]amino}methyl)-cyclohexyl]carbamate | 5.023 g, 99% | C(C1=CC=CC=C1)OC(NC1CCC(CC1)CNC(=S)NC(C1=CC=CC=C1)=O)=O | C23H27N3O3S
